US08303844B2
77.0 g (about 0.26 mol) of crude 7,8-difluoro-2-(4-propylcyclohexyl)-1,2,3,4-tetrahydronaphthalene are initially introduced in 500 ml of THF, and 200.0 ml (0.32 mol) of n-BuLi (15% soln. in hexane) are added at −70° C. After 3 h at this temperature, 37.0 ml (0.33 mol) of trimethyl borate are added dropwise, the batch is warmed to 0° C., and 80 ml of dilute acetic acid (about 30%) are added. The mixture is warmed to 30° C., and 70 ml of hydrogen peroxide solution (35%) are carefully added. When the addition is complete, the mixture is stirred at RT for 2 h. Water is added, and the batch is acidified using dil. hydrochloric acid. The solution is extracted a number of times with MTBE, and the combined organic phases are washed successively with water, sat. sodium chloride soln. and ammonium iron(II) sulfate soln. The solution is dried using sodium sulfate and evaporated to dryness. The crude product is purified by column chromatography (SiO2, toluene). The further purification is carried out by crystallisation from n-heptane, giving 3,4-difluoro-6-(4-propylcyclohexyl)-5,6,7,8-tetrahydronaphthalen-2-ol as a colourless solid.

reactant | 7,8-difluoro-2-(4-propylcyclohexyl)-1,2,3,4-tetrahydronaphthalene | about 0.26 mol, 77.0 g | FC1=CC=C2CCC(CC2=C1F)C1CCC(CC1)CCC | C19H26F2
reactant | n-BuLi | 0.32 mol, 200.0 ml | [Li]CCCC
reactant | trimethyl borate | 0.33 mol, 37.0 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrogen peroxide | 70 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 3,4-difluoro-6-(4-propylcyclohexyl)-5,6,7,8-tetrahydronaphthalen-2-ol | FC=1C(=CC=2CCC(CC2C1F)C1CCC(CC1)CCC)O | C19H26F2O
